US09334290B2
A solution of 2-aminobenzoic acid (5.00 g, 36.5 mmol) and thionyl chloride (8.68 g, 72.9 mmol) in toluene (50 mL) was heated at reflux for 60 min. The mixture was concentrated in vacuo, and the residue was suspended in THF (50 mL), cooled in an ice-water bath and treated with 3-bromo-2-methylaniline (20.35 g, 109 mmol). The resulting suspension was heated at reflux for 2 h. The cooled mixture was treated with 10% aqueous K2CO3 (50 mL), stirred vigorously for 15 min, and extracted with EtOAc. The organic phase was dried and concentrated. The residue was purified by column chromatography on silica gel to give 2-amino-N-(3-bromo-2-methylphenyl)benzamide as a light yellow solid (4.70 g, 42% yield). Mass spectrum m/z 305, 307 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 7.72 (d, J=7.9 Hz, 1H), 7.67 (br. s., 1H), 7.54 (dd, J=8.3, 1.2 Hz, 1H), 7.48 (dd, J=7.9, 0.9 Hz, 1H), 7.36-7.31 (m, 1H), 7.15 (t, J=8.0 Hz, 1H), 6.81-6.73 (m, 2H), 5.59 (br. s., 2H), 2.45 (s, 3H).

reactant | 2-aminobenzoic acid | 36.5 mmol, 5.00 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | thionyl chloride | 72.9 mmol, 8.68 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-bromo-2-methylaniline | 109 mmol, 20.35 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | K2CO3 | 50 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-amino-N-(3-bromo-2-methylphenyl)benzamide | 4.70 g, 42% yield | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)C)C=CC=C1 | C14H13BrN2O
